US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((3-morpholinopropylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((3-morpholinopropylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (69 mg, 0.095 mmol) in DCM (1 ml) was added TFA (0.4 ml, 5.19 mmol). The mixture was stirred at rt for 3 h then was concentrated under reduced pressure. The residue was purified by prep. HPLC. The fractions containing the expected product were combined and concentrated under reduced pressure to afford the title compound (36 mg, 0.054 mmol, 56.5% yield) as a white foam. LCMS: m/e 671.5 (M+H)+, 2.17 min (method 6). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.94 (d, J=8.03 Hz, 2H),7.15 (d, J=8.03 Hz, 2H), 5.29 (d, J=4.52 Hz, 1H), 4.71 (br. s., 1H), 4.62 (br. s., 1H), 3.73 (br. s., 4H), 3.09-3.26 (m, 3H), 2.65 (d, J=12.30 Hz, 1H), 2.56 (br. s., 6H), 2.42 (br. s., 1H), 1.69 (s, 3H), 1.07 (s, 3H), 1.05-2.14 (m, 24H), 1.00 (s, 3H), 0.97 (s, 3H), 0.93 (br. s., 3H), 0.93 (br. s., 3H).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((3-morpholinopropylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.095 mmol, 69 mg | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC3)C(=C)C)CNCCCN3CCOCC3 | C48H74N2O3
reactant | TFA | 5.19 mmol, 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((3-morpholinopropylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.054 mmol, 36 mg, 56.5% yield | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC3)C(=C)C)CNCCCN3CCOCC3 | C44H66N2O3
